US04178449
3-Dimethylamino-2-methyl-3'-(trifluoromethyl)acrylophenone
A mixture of 25 g. of m-trifluoromethylpropiophenone and 25 ml. of dimethylformamide dimethylacetal is refluxed overnight and then evaporated to an oil. The oil is dissolved in hexane and the solution is refrigerated giving crystals of the desired product, m.p. 53°-55° C.

reactant | m-trifluoromethylpropiophenone | FC(C=1C=C(C=CC1)C(CC)=O)(F)F | C10H9F3O
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3-Dimethylamino-2-methyl-3'-(trifluoromethyl)acrylophenone | CN(C=C(C(=O)C1=CC(=CC=C1)C(F)(F)F)C)C | C13H14F3NO
